US04698348
Using the method of Example 1, 4-chloro-3-nitroquinoline was reacted with 2-hydroxypropylamine to provide 4-(2-hydroxypropylamino)-3-nitroquinoline.

reactant | 4-chloro-3-nitroquinoline | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | 2-hydroxypropylamine | OC(CN)C | C3H9NO
product | 4-(2-hydroxypropylamino)-3-nitroquinoline | OC(CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-])C | C12H13N3O3
